US06673799B1
5-Aminomethyl-2-methoxypyridine
A 1.00 g portion of 5-cyano-2-methoxypyridine was dissolved in 30 ml of ethanol and 10 ml of 28% aqueous ammonia, mixed with 1 g of Raney nickel and then stirred at room temperature for 4 hours at atmospheric pressure in a stream of hydrogen. After filtration through celite, the solvent was evaporated to obtain 962 mg of the title compound.

reactant | 5-cyano-2-methoxypyridine | C(#N)C=1C=CC(=NC1)OC | C7H6N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ammonia | 10 ml | N | H3N
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 5-Aminomethyl-2-methoxypyridine | 962 mg | NCC=1C=CC(=NC1)OC | C7H10N2O
